US04323578
One drop of triethylamine was added to a mixture of 6.37 g (0.04 mol) of S-methyl (E)-2,2,2-trifluoro-N-hydroxythioacetimidate and 2.28 g (0.04 mol) of methyl isocyanate. An exothermic reaction ensued, and the reaction mixture was cooled in an ice-bath. The reaction mixture solidified on cooling. Recrystallization from ether gave 6.39 g (74% yield) of S-methyl (E)-2,2,2-trifluoro-N-(methylcarbamoyloxy)thioacetimidate as colorless crystals, mp. 83°-85°. Analysis of the isomer prepared in a similar procedure follows:

reactant | S-methyl (E)-2,2,2-trifluoro-N-hydroxythioacetimidate | 0.04 mol, 6.37 g | FC(/C(/SC)=N\O)(F)F | C3H4F3NOS
reactant | methyl isocyanate | 0.04 mol, 2.28 g | CN=C=O | C2H3NO
catalyst | triethylamine | One drop | C(C)N(CC)CC | C6H15N
product | S-methyl (E)-2,2,2-trifluoro-N-(methylcarbamoyloxy)thioacetimidate | 6.39 g, 74% yield | FC(/C(/SC)=N\OC(NC)=O)(F)F | C5H7F3N2O2S
